US20010044433A1
(3S, 6R)-3-(tert-butoxycarbonyl)aminohexahydro-6-tert-butyldimethylsilyloxy-2H-azepin-2-one (8.0g, 22 mmol) is dissolved in 40 mL of CH2Cl2 and cooled to −78° C. Trimethylsilyl iodide (3.5 mL, 24.5 mmol) is added slowly. The mixture is allowed to react at −78° C. for 30 min. The reaction is warmed to 0° C. and stirred for 15 min. The solution turned yellow. The reaction is quenched with NH4HCO3 (3.43g, 44 mmol) dissolved in 30 mL of CH3OH, and 15 mL water. The mixture is concentrated and chromatographed with 95:5 mixture of CH2Cl2 and methanol to yield 5.45g (96%) of (3S, 6R)-3-aminohexahydro-6-tert-butyl-dimethylsilyloxy-2H-azepin-2-one as a white solid: 1H NMR (CDCl3) δ 5.61 (s, 1H), 3.88 (s, 1H), 3.42 (d, J=8 Hz, 1 H), 3.32(dd, J=6 Hz and 16 Hz, 1 H), 3.06 (m, 1 H), 1.87 (m, 2H), 1.76 (m, 1H), 1.65 (s, 3H), 0.83 (s, 9H), 0.001 (s, 6H).

reactant | (3S, 6R)-3-(tert-butoxycarbonyl)aminohexahydro-6-tert-butyldimethylsilyloxy-2H-azepin-2-one | 22 mmol, 8.0g | C(C)(C)(C)OC(=O)N[C@@H]1C(NC[C@@H](CC1)O[Si](C)(C)C(C)(C)C)=O | C17H34N2O4Si
reactant | Trimethylsilyl iodide | 24.5 mmol, 3.5 mL | C[Si](C)(C)I | C3H9ISi
reactant | water | 15 mL | O | H2O
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | CH3OH | 30 mL | CO | CH4O
product | (3S, 6R)-3-aminohexahydro-6-tert-butyl-dimethylsilyloxy-2H-azepin-2-one | 5.45g, 96% | N[C@@H]1C(NC[C@@H](CC1)O[Si](C)(C)C(C)(C)C)=O | C12H26N2O2Si
